US08664230B2
To a solution of 5-bromo-2-chloropyridin-3-amine (0.500 g, 2.89 mmol) in pyridine (1.45 ml) was dropwise added 2,4-difluorobenzene-1-sulfonyl chloride (0.614 ml, 2.89 mmol) at 0° C. The mixture was stirred for 40 min at room temperature and acidified with 1 N HCl. The residue was extracted with EtOAc and the combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to give N-(5-bromopyridin-3-yl)-2,4-difluorobenzenesulfonamide (0.70 g, 70% yield) as a white solid. 1H-NMR (CDCl3, Varian 400 MHz) δ 6.92-7.04 (2H, m), 7.76-7.84 (1H, m), 7.86-7.95 (1H, m), 8.27 (1H, d, J=2.4 Hz), 8.44 (1H, d, J=2.4 Hz); NH peak was not observed.

reactant | 5-bromo-2-chloropyridin-3-amine | 2.89 mmol, 0.500 g | BrC=1C=C(C(=NC1)Cl)N | C5H4BrClN2
reactant | 2,4-difluorobenzene-1-sulfonyl chloride | 2.89 mmol, 0.614 ml | FC1=C(C=CC(=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | HCl | 1 N | Cl | ClH
solvent | pyridine | 1.45 ml | N1=CC=CC=C1 | C5H5N
product | N-(5-bromopyridin-3-yl)-2,4-difluorobenzenesulfonamide | 0.70 g, 70% yield | BrC=1C=C(C=NC1)NS(=O)(=O)C1=C(C=C(C=C1)F)F | C11H7BrF2N2O2S
